US04486359
To a hot solution of 500 ml. methanol, 98 g. potassium acetate and 30 g. of formaldehyde 37.5 g. of glycine and 55 g. of dimethyl phosphite are added. The mixture is stirred for one hour at the boiling temperature. The mixture is cooled and under cooling 167 ml. conc. hydrochloric acid are added. The solution is stirred for 15 minutes at 5° C. and the precipitated salt is filtered off. One may further proceed as disclosed in Example 1. 54-55 g. of N-phosphonomethyl glycine are obtained. The quality of the product is as given in Example 1.

reactant | potassium acetate | C(C)(=O)[O-].[K+]
reactant | formaldehyde | 37.5 g | C=O | CH2O
reactant | glycine | NCC(=O)O | C2H5NO2
reactant | dimethyl phosphite | P(OC)(OC)[O-]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | CO | CH4O
product | N-phosphonomethyl glycine | P(=O)(O)(O)CNCC(=O)O | C3H8NO5P
